US09212192B2
tert-butyl 4-(3-fluoro-4-nitrophenyl)piperazine-1-carboxylate
A mixture of 4-bromo-2-fluoro-1-nitrobenzene (5 g, 23 mmol), tert-butyl piperazine-1-carboxylate (4.24 g, 23 mmol), palladium diacetate (0.51 g, 2.3 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (2.13 g, 3.4 mmol) and cesium carbonate (14.8 g, 45 mmol) in toluene (120 mL) was heated under nitrogen at 60° C. for 20 hours. After cooling to ambient temperature, the mixture was concentrated and the residue was diluted with dichloromethane (300 mL) and washed with water. The combined organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 3/1 petroleum ether/ethyl acetate to give the title compound. MS: 348 (M+Na+).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 23 mmol, 5 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tert-butyl piperazine-1-carboxylate | 23 mmol, 4.24 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 3.4 mmol, 2.13 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 45 mmol, 14.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium diacetate | 2.3 mmol, 0.51 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | tert-butyl 4-(3-fluoro-4-nitrophenyl)piperazine-1-carboxylate | FC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C15H20FN3O4
